US04225609
Step C: Preparation of 4-{3-[3-[2-(1-Hydroxycyclohexyl)-ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid
Sodium hydroxide solution (5 N, 2.5 ml., 12.5 mmol.) is added to a stirred mixture of ethyl 4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoate (2.48 g., 5.91 mmol.), methanol (25 ml.) and water (5 ml.). The resulting mixture is stirred at ambient temperature for 16 l hours. Then, it is diluted with water, acidified with diluted hydrochloric acid, and extracted with ether. The ethereal extract is washed with water, dried over anhydrous magnesium sulfate, and filtered. Upon cooling the filtrate, the title compound precipitates out as a white solid, which is collected by filtration (7.06 g., 2.57 mmol., 42%). The product is recrystallized from chloroform-ether, m.p. 147°-148° C., ir (KBr) 3320, 1700, 1650 cm-1, pmr (CDCl3) δ3.54 (2H, s), 4.70 (1H, m), 7.22 (2H, d), 8.00 (2H, d).

reactant | Sodium hydroxide | 12.5 mmol, 5 N, 2.5 ml | [OH-].[Na+]
reactant | ethyl 4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoate | 5.91 mmol, 2.48 g | OC1(CCCCC1)CCN1C(SCC1=O)CCCC1=CC=C(C(=O)OCC)C=C1 | C23H33NO4S
reactant | methanol | 25 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | water | 5 ml | O | H2O
product | 4-{3-[3-[2-(1-Hydroxycyclohexyl)-ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid | OC1(CCCCC1)CCN1C(SCC1=O)CCCC1=CC=C(C(=O)O)C=C1 | C21H29NO4S
